US08748012B2
A mixture solution of bis(3-bromophenyl)diphenylsilane (10.84 g, 21.92 mmol), dibenzo[b,d]thiophen-2-yl boronic acid (2.000 g, 8.77 mmol), Pd(PPh3)4 (0.101 g, 0.088 mmol) and K2CO3 (2.424 g, 17.54 mmol) in toluene (200 mL) and water (50 mL) was refluxed under nitrogen overnight. After cooling to room temperature, the organic phase was isolated and evaporated to dryness. The residue was purified by column chromatography on silica gel with hexane:DCM (9:1, v/v) as eluent to yield (3-bromophenyl)(3-(dibenzo[b,d]thiophen-2-yl)phenyl)diphenylsilane (3.16 g, 60% yield) as a white solid.

reactant | bis(3-bromophenyl)diphenylsilane | 21.92 mmol, 10.84 g | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C24H18Br2Si
reactant | dibenzo[b,d]thiophen-2-yl boronic acid | 8.77 mmol, 2.000 g | C1=C(C=CC=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | K2CO3 | 17.54 mmol, 2.424 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.088 mmol, 0.101 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-bromophenyl)(3-(dibenzo[b,d]thiophen-2-yl)phenyl)diphenylsilane | 3.16 g, 60% yield | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C36H25BrSSi
